US08957069B2
1-(2,2-difluoro-1,3-benzodioxole-5-yl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (436 mg, 1.50 mmol) synthesized in Reference Example 96 and 5-bromo-2,2-difluoro-1,3-benzodioxole (614 mg, 2.25 mmol), the reaction was carried out in the same manner as Reference Example 59 to synthesize 321 mg of the title compound (yield 48%). Melting point was 149 to 151° C. (hexane).

reactant | 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.50 mmol, 436 mg | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 5-bromo-2,2-difluoro-1,3-benzodioxole | 2.25 mmol, 614 mg | BrC1=CC2=C(OC(O2)(F)F)C=C1 | C7H3BrF2O2
product | 1-(2,2-difluoro-1,3-benzodioxole-5-yl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 321 mg, yield 48% | FC1(OC2=C(O1)C=CC(=C2)N2CCN(CC2)C=2C(=C(C1=C(CC(O1)(C)C)C2C)OC)C)F | C24H28F2N2O4
